US05576343
8.40 g of (7-cyano-2-naphthyl)methyltriphenylphosphonium bromide and 5.0 g of ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-2-oxoacetate were suspended in a mixture of 100 ml of tetrahydrofuran and 100 ml of ethanol. With stirring, to the resulting suspension was added 2.51 g of 1,8-diazabicyclo[5.4.0]-7-undecene, followed by stirring for 3 hours at room temperature. After distilling off the solvent, the residue thus obtained was subjected to silica gel column chromatography using a n-hexane/ethyl acetate mixture as an elution solvent, thereby obtaining 6.06 g of ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(7-cyano-2-naphthyl)acrylate as a mixture of E and Z forms. A portion of the thus obtained compound was separated into E and Z forms.

reactant | (7-cyano-2-naphthyl)methyltriphenylphosphonium bromide | 8.40 g | [Br-].C(#N)C1=CC=C2C=CC(=CC2=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-2-oxoacetate | 5.0 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OCC)=O | C19H25NO6
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 2.51 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(7-cyano-2-naphthyl)acrylate | 6.06 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OCC)=CC1=CC2=CC(=CC=C2C=C1)C#N | C31H32N2O5
